US07696223B2
d) 2,3-Dibromo-4-hydroxy-1-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of 2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester from 4,5-Dibromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester. The title compound, ESI MS (m/z): 377 (M+H+).

reactant | 2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C22H17FN2O3
reactant | 4,5-Dibromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)Br)C)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C18H26Br2N2O6
product | 2,3-Dibromo-4-hydroxy-1-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)C)O | C11H10Br2N2O3
